US08669234B2
2-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol.
To a stirred solution of 2-(4-bromo-phenyl)-6-methoxy-benzo[b]thiophene (80 mg, 0.25 mmol) was added BBr3 (0.5 mL of 1 M in DCM, 0.5 mmol) at 0° C. The mixture was stirred for 3 hours at ambient temperature. DCM was removed under vacuum, and the residue was dissolved in ethyl acetate (30 mL). The organic layer was washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was treated with hexane to give the product (67 mg, 88%). m/z 303.0, 305.0 (M−H)−.

reactant | 2-(4-bromo-phenyl)-6-methoxy-benzo[b]thiophene | 0.25 mmol, 80 mg | BrC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C15H11BrOS
reactant | BBr3 | 0.5 mmol, 1 M, 0.5 mL | B(Br)(Br)Br | BBr3
product | 2-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol | 67 mg, 88% | BrC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C14H9BrOS
